### PR TITLE
fix: let try? continue after maxRecDepth

### LINKED ISSUE #13216: `try?` errors because `simp` errors
### Prerequisites

* [X ] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X ] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [ X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In the following a simple `grind only` would succeed, but nothing is suggested by `try?` since it errors out
(probably because it tries `simp` and that errors out).

```lean4
example (f : Nat → Nat) (x : Nat) (h : x = f x) : x = f (f x) := by
  /-
  Tactic `simp` failed with a nested error:
  maximum recursion depth has been reached
  use `set_option maxRecDepth <num>` to increase limit
  use `set_option diagnostics true` to get diagnostic information
  -/
  try?
```
### Expected Behaviour

I believe that the simp error should be caught and proof search via the other registered tactics should continue.
A warning that `simp` errored out would be useful, but it shouldn't completely disable the `try?` tactic.

### Context
See also https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.60try.3F.60.20fails.20if.20.60simp.60.20fails/with/579279034

This more frequently happens with `simp_all` since this is much more likely to loop accidentally.

### Versions

Lean 4.29.0

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by raphael-solace**
This PR lets `try?` continue evaluating other candidate branches when one branch hits Lean's recursion-depth resource limit.

`try?` already converts heartbeat exhaustion into an ordinary branch failure. This applies the same treatment to `maxRecDepth`, so an expensive `simp`/`simp_all` candidate does not suppress a useful `grind` suggestion.

Closes #13216.

### CODE REVIEW

**Comment by raphael-solace** [comment]
changelog-tactics

File: tests/elab/try_eval_suggest.lean [hunk 1]
```diff
@@ -49,3 +49,12 @@ example (h : 1 = 1) : 1 = 1 := by
...
   try? (max := 1) => attempt_all | rfl | simp_all
+
+-- A resource-limit error in one branch should not prevent other branches from producing suggestions.
+/--
+info: Try this:
+  [apply] grind
+-/
+#guard_msgs (substring := true) in
+example (f : Nat → Nat) (x : Nat) (h : x = f x) : x = f (f x) := by
+  try?
```
Comment (nomeata) [inline tests/elab/try_eval_suggest.lean:60]: Can you make this test more reliable by using `try? =>` and a tactic that definitely triggers or explicitly throws maxrecdepth
